US05480902
Preparation of 2-(2-Benzofuranyl)Pyrrole-3-Carbonitrile
β-[(Formylmethyl)amino]-2-benzofuranacrylonitrile (1.00 g, 3.33 mmol) is added dropwise to trifluoroacetic acid (5 mL). The reaction mixture is stirred at room temperature for one hour, diluted with water and extracted with ethyl acetate. The organic extract is washed sequentially with saturated sodium hydrogen carbonate solution and brine, dried over MgSO4, decolorized with charcoal and concentrated in vacuo to obtain an orange solid. Dry column chromatography of the solid using silica gel and methylene chloride gives the title product as a brown-white solid (0.32 g 46% mp 157°-160.5° C.

reactant | β-[(Formylmethyl)amino]-2-benzofuranacrylonitrile | 3.33 mmol, 1.00 g | C(=O)CNC(=CC#N)C=1OC=C2C1C=CC=C2 | C13H10N2O2
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 2-(2-Benzofuranyl)Pyrrole-3-Carbonitrile | O1C(=CC2=C1C=CC=C2)C=2NC=CC2C#N | C13H8N2O
